US06156866
4,4'-dihydroxychalcone:
DHC; hydroquinone 4-hydroxybenzoate: HQHB; 2,5-bis(4-hydroxybenzylidene)cyclopentanone: BHBC.

reactant | hydroquinone 4-hydroxybenzoate | OC1=CC=C(C(=O)O)C=C1.C1(O)=CC=C(O)C=C1
reactant | 2,5-bis(4-hydroxybenzylidene)cyclopentanone | OC1=CC=C(C=C2C(C(CC2)=CC2=CC=C(C=C2)O)=O)C=C1 | C19H16O3
product | 4,4'-dihydroxychalcone | OC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)O | C15H12O3
